US06573218B1
Step 2 To a suspension of sodium hydride (1.23 g) in N,N-dimethylformamide (70 ml) was added dropwise a solution of ethyl 3-amino4,4,4-trifluorocrotonate (5.6 g) in toluene (50 ml) at 0° C. under nitrogen atmosphere. After 30 minutes, a solution of 4-chloronaphthyl isocyanate (28 mmol) in a mixed solvent of N,N-dimethylformamide (30 ml) and toluene (50 ml) was added dropwise at same temperature. The resulting solution was stirred for 2 hours at ambient temperature, and then methyl iodide (8 g) was added. After 12 hours, the reaction mixture was partitioned with water(200 ml) and a mixed solvent of ethyl acetate-hexane (1:1, 300 ml). The organic phase was washed with brine and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure and obtained solid was washed with hot ethyl acetate to give 3-(4-chloronaphthalen-1-yl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidindione (6.6 g) as a brown solid.

reactant | sodium hydride | 1.23 g | [H-].[Na+]
reactant | ethyl 3-amino4,4,4-trifluorocrotonate | 5.6 g | N\C(=C/C(=O)OCC)\C(F)(F)F | C6H8F3NO2
reactant | 4-chloronaphthyl isocyanate | 28 mmol | ClC1=CC=C(C2=CC=CC=C12)N=C=O | C11H6ClNO
reactant | methyl iodide | 8 g | CI | CH3I
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-(4-chloronaphthalen-1-yl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidindione | 6.6 g | ClC1=CC=C(C2=CC=CC=C12)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C16H10ClF3N2O2
